US08378104B2
Step I: 2-chloro-4-iodofuro[2,3-c]pyridin-7-amine (Title Compound)
A solution of 2-chlorofuro[2,3-c]pyridin-7-amine (9.0 g, 53.8 mmol) in MeCN (250 mL) was treated with N-iodosuccinimide (18.2 g, 80.8 mmol) added portionwise over a 5-10 min period. The mixture was stirred at RT for 16 h. The reaction was then quenched with 20% aqueous Na2S2O3 and stirred for 10 min. EtOAc (200 mL) was added and the phases separated. The organic phase was washed with 20% aqueous Na2S2O3 (50 mL), then water (2×100 mL) and finally with brine. After drying over Na2SO4, the organic extracts were filtered and concentrated in vacuo. The material was purified using flash chromatography (25% EtOAc:hexane) to afford 12.6 g (80%) of the title compound. 1H NMR (300 MHz CDCl3): δ 4.76 (br. s, 2H), 6.49 (s, 1H), 8.05 (s, 1H).

reactant | 2-chlorofuro[2,3-c]pyridin-7-amine | 53.8 mmol, 9.0 g | ClC1=CC=2C(=C(N=CC2)N)O1 | C7H5ClN2O
reactant | N-iodosuccinimide | 80.8 mmol, 18.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | MeCN | 250 mL | CC#N | C2H3N
product | 2-chloro-4-iodofuro[2,3-c]pyridin-7-amine | 12.6 g, 80% | ClC1=CC=2C(=C(N=CC2I)N)O1 | C7H4ClIN2O
